US07105499B2
3′-Deoxy-2′-O-(2-methoxyethyl)-3′-methyl-5-methyluridine
A solution of 5′-O-(tert-butyldiphenylsilyl)-3′-deoxy-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine (1.12 g, 1.65 mmol) and triethylamine trihydrofluoride (1.1 mL, 1.1 g, 6.7 mmol) in 20 mL of THF was stirred at rt for 24 h. The reaction mixture was diluted with 50 mL of ethyl acetate and washed with water and brine. The organic phase was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography on a silica gel column. Gradient elution with 2:1, 1:2 and then 1:3 hexanes-EtOAc provided 504 mg of the title compound as a white foam.

reactant | 5′-O-(tert-butyldiphenylsilyl)-3′-deoxy-3′-(iodomethyl)-2′-O-(2-methoxyethyl)-5-methyluridine | 1.65 mmol, 1.12 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCOC)CI | C30H39IN2O6Si
reactant | triethylamine trihydrofluoride | 6.7 mmol, 1.1 mL, 1.1 g | F.F.F.C(C)N(CC)CC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3′-Deoxy-2′-O-(2-methoxyethyl)-3′-methyl-5-methyluridine | 504 mg | COCCO[C@H]1[C@@H](O[C@@H]([C@H]1C)CO)N1C(=O)NC(=O)C(=C1)C | C14H22N2O6
